US07335770B2
Synthesis of 4-{2-[4-(3-chloro-4-methoxyanilino)-6-isopropylamino-1,3,5-triazine-2-yl-oxy]-phenyl}-2-methyl-3-butyn-2-ol
A mixture of compound N-(3-Chloro-4-methoxy-phenyl)-6-(4-iodo-phenoxy)-N′-isopropyl-[1,3,5]triazine-2,4-diamine (0.4 g, 0.78 mmol), triethylamine (0.27 ml, 1.95 mmol) in dimethylformamide (3 mL) was added bis(triphenylphosphine)palladium(II)chloride (27 mg, 0.04 mmol), CuI (15 mg, 0.08 mmol) and 2-methyl-3-butyn-2-ol (0.11 ml, 1.17 mmol). It is stirred under nitrogen atmosphere for 6 hrs. The mixture was then cooled, diluted with water (20 mL) and extracted with EtOAc (2×20 mL). The combined organic layers were washed with water (2×10 mL), dried over anhydrous sodium sulphate and concentrated under vacuum. The residue thus obtained was purified by column chromatography (10-20% EtOAc-Hexane) to afford the title compound as a pale yellow solid (0.256 g, 70%). mp 138-140° C.; HPLC: Inertsil ODS 3V (250×4.6 mm) 5 microns [solvent A=0.01 M KH2PO4 (pH 7.0); solvent B=CH3CN], Gradient elution program: T/% B=0/60, 10/60, 25/80, 40/80, 45/60, 50/60; 254 nm, Rt 16.80 min, 97.77% purity; MS (CI): m/z 468 (M+H, 100).

reactant | N-(3-Chloro-4-methoxy-phenyl)-6-(4-iodo-phenoxy)-N′-isopropyl-[1,3,5]triazine-2,4-diamine | 0.78 mmol, 0.4 g | ClC=1C=C(C=CC1OC)NC1=NC(=NC(=N1)NC(C)C)OC1=CC=C(C=C1)I | C19H19ClIN5O2
reactant | triethylamine | 1.95 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-3-butyn-2-ol | 1.17 mmol, 0.11 ml | CC(C)(C#C)O | C5H8O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.04 mmol, 27 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | CuI | 0.08 mmol, 15 mg | [Cu]I
product | 4-{2-[4-(3-chloro-4-methoxyanilino)-6-isopropylamino-1,3,5-triazine-2-yl-oxy]-phenyl}-2-methyl-3-butyn-2-ol | 0.256 g, 70% | ClC=1C=C(NC2=NC(=NC(=N2)NC(C)C)OC2=C(C=CC=C2)C#CC(C)(O)C)C=CC1OC | C24H26ClN5O3
